US06906072B1
Example 93 1-(4-cyano-5-methyl-4-[2-bromo-5-cyano-3-thienyl)hexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine
In a nitrogen atmosphere, 1-(4-cyano-5-methyl-4-[(2,5-dibromo)-3-thienyl]hexyl)-4-[2-(3-cyanophenoxy) ethyl] piperazine (145 mg) was dissolved in a mixed solvent of dimethylformamide (10 mL)/water (0.1 mL) of zinc cyanide (57.3 mg) and 1,1′-bis(diphenylphosphino)ferrocene (13.5 mg). Palladium-dibenzylidene acetone complex (8.9 mg) was added thereto, the atmosphere of the mixture was replaced 3 times with nitrogen, and then the solution was stirred at 120° C. for 4 hours. Water, diethyl ether and an aqueous ammonia were added thereto, to separate the organic layer. The resulting organic layer was washed with water and brine, dried over anhydrous magnesium sulfate. After filtering off the drying agent, the filtrate was evaporated, and the residue was purified by LC-MS (ODS column; acetonitrile/water system), to give the title compound as a yellow oil (8 mg, 6.7%).

reactant | 1-(4-cyano-5-methyl-4-[(2,5-dibromo)-3-thienyl]hexyl)-4-[2-(3-cyanophenoxy) ethyl] piperazine | 145 mg | C(#N)C(CCCN1CCN(CC1)CCOC1=CC(=CC=C1)C#N)(C(C)C)C1=C(SC(=C1)Br)Br | C25H30Br2N4OS
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | water | 0.1 mL | O | H2O
reactant | ammonia | N | H3N
catalyst | zinc cyanide | 57.3 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 13.5 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-cyano-5-methyl-4-[2-bromo-5-cyano-3-thienyl)hexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine | 8 mg, 6.7% | C(#N)C(CCCN1CCN(CC1)CCOC1=CC(=CC=C1)C#N)(C(C)C)C1=C(SC(=C1)C#N)Br | C26H30BrN5OS
